US06476279B2
A mixture of 1,1,1-trifluoro-2,2,2-trichloroethane and tert-butylvinyl ether in a 3:1 molar ratio is introduced to a jacketed photochemical reaction vessel. The mixture is irradiated using a medium-pressure mercury UV lamp so as to maintain the temperature of the mixture at about 35-45° C. for about 2 hours. The resultant reaction mixture is concentrated to remove volatiles and distilled to produce 3-chloro-4,4,4-trifluorobut-2-enal in a 60% yield.

reactant | 1,1,1-trifluoro-2,2,2-trichloroethane | FC(C(Cl)(Cl)Cl)(F)F | C2Cl3F3
reactant | tert-butylvinyl ether | C(C)(C)(C)OC=C | C6H12O
catalyst | mercury | [Hg] | Hg
product | 3-chloro-4,4,4-trifluorobut-2-enal | 60% yield | ClC(=CC=O)C(F)(F)F | C4H2ClF3O
